US05206240
1-[2-(4-Cyanophenyl)ethyl]-7',8'-dihydro-8'-oxo-spiro[piperidine-4,6'(1'H)-pyrano[2,3-f]benzimidazole]dihydrochloride
Triethyl orthoformate (75 ml, 67 mg, 0.45 mmol) was added to a stirred suspension of 6,7-diamino-3,4-dihydro-1'-[2-(4-cyanophenyl)ethyl]spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one (56 mg, 0.15 mmol) and p-toluensulfonic acid (monohydrate, 10 mg) in ethyl acetate (5 ml). The mixture was heated under reflux for 1 hour, further triethyl orthoformate (75 ml) was added and the mixture was heated under reflux for 1.5 hour. The mixture was cooled and aqueous HCl (1N, 5 ml) was added. The mixture was stirred for 15 minutes, poured into aqueous sodium hydrogen carbonate (saturated, 25 ml) and extracted with dichloromethane (3×25 ml). The combined organic fractions were dried (Na2SO4) and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with CH2Cl2 /MeOH/NH3 (Aq.) (95:5:0.5) to give a yellow solid which was suspended in ethanol (1 ml) and treated with ethanolic HCl (6M, 0.2 ml). The mixture was stirred for 1 hour, cooled and the precipitate was collected and dried in vacuo to give the title compound as a tan solid (40 mg, 55%), m.p >250° C.

reactant | Triethyl orthoformate | 0.45 mmol, 75 ml, 67 mg | C(OCC)(OCC)OCC | C7H16O3
reactant | 6,7-diamino-3,4-dihydro-1'-[2-(4-cyanophenyl)ethyl]spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one | 0.15 mmol, 56 mg | NC=1C(=CC2=C(C(CC3(CCN(CC3)CCC3=CC=C(C=C3)C#N)O2)=O)C1)N | C22H24N4O2
reactant | p-toluensulfonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | triethyl orthoformate | 75 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | HCl | 1N, 5 ml | Cl | ClH
reactant | sodium hydrogen carbonate | 25 ml | C(O)([O-])=O.[Na+]
reactant | HCl | 6M, 0.2 ml | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 1-[2-(4-Cyanophenyl)ethyl]-7',8'-dihydro-8'-oxo-spiro[piperidine-4,6'(1'H)-pyrano[2,3-f]benzimidazole]dihydrochloride | 40 mg, 55% | Cl.Cl.C(#N)C1=CC=C(C=C1)CCN1CCC2(CC(C=3C(=CC4=C(NC=N4)C3)O2)=O)CC1 | InChI=1S/C23H22N4O2.2ClH/c24-14-17-3-1-16(2-4-17)5-8-27-9-6-23(7-10-27)13-21(28)18-11-19-20(26-15-25-19)12-22(18)29-23;;/h1-4,11-12,15H,5-10,13H2,(H,25,26);2*1H
